US05192786
To a suspension of sodium hydride (60%, 1.7 g, 43 mmol) in dimethylformamide (200 mL) was added 4'-chloro-4-hydroxybenzophenone (5 g, 22 mmol) portionwise. The mixture was stirred at room temperature for 2 hours, then 1-bromo-3-chloropropane (4.4 mL, 43 mmol) was added, and the mixture was stirred at room temperature overnight. The reaction was quenched with methanol (10 mL) and filtered through Celite®. The filtrate was taken up in ether (300 mL), washed thrice with water (150 mL) and dried over sodium sulfate. The solution was concentrated to give 6.1 g (90%) of 4'-chloro-4-chloropropoxybenzophenone as an amber oil. 1H NMR (CDCl3): δ7.98-6.89(m,8H), 4.19(t,2H), 3.85(t,2H), 2.29(m,2H).

reactant | sodium hydride | 43 mmol, 1.7 g | [H-].[Na+]
reactant | 4'-chloro-4-hydroxybenzophenone | 22 mmol, 5 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)=O | C13H9ClO2
reactant | 1-bromo-3-chloropropane | 43 mmol, 4.4 mL | BrCCCCl | C3H6BrCl
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4'-chloro-4-chloropropoxybenzophenone | 6.1 g, 90% | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCCCl)=O | C16H14Cl2O2
